US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (300 mg, 0.63 mmol), 1-dimethylamino-2-propyne (90 μL, 0.84 mmol), 7.5 mg of tetrakis(triphenylphosphine)palladium(0) and 3 mg of copper(I) iodide in 2 mL of triethylamine and 7 mL of benzene is heated at reflux overnight. The mixture is cooled to room temperature and 2 mL of methanol are added. The solvents are removed in vacuo and the residue is treated with 10 mL of chloroform. The insoluble material is removed by filtration, washing with chloroform. The filtrate is washed with 10% aqueous hydrochloric acid, water, and saturated aqueous sodium chloride. The combined aqueous layers are brought to pH 8 by adding 2 N sodium hydroxide. The aqueous layer is extracted with chloroform, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 5% methanol in dichloromethane to provide 225 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[3-(dimethylamino)prop-1-ynyl]thieno[3,2-b]pyridine-6-carbonitrile as red crystals, mp 164-166° C.; 1H NMR (DMSO-d6) δ 2.21 (s, 6H), 3.53 (s, 2H), 3.85 (s, 3H), 7.37 (s, 1H), 7.62 (s, 1H), 7.78 (s, 1H), 8.62 (s, 1H), 9.77 (s, 1H); MS 429.3, 431.2 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 0.63 mmol, 300 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 1-dimethylamino-2-propyne | 0.84 mmol, 90 μL | CN(CC#C)C | C5H9N
reactant | methanol | 2 mL | CO | CH4O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 7.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 3 mg | [Cu]I
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[3-(dimethylamino)prop-1-ynyl]thieno[3,2-b]pyridine-6-carbonitrile | 225 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#CCN(C)C | C20H16Cl2N4OS
